US05434149
3-pyrrolidinopropyl-5-(3,4-dimethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one;
of 5-(3-methoxy-4-ethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one with 1-chloro-3-pyrrolidinopropane:

reactant | 5-(3-methoxy-4-ethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one | COC=1C=C(C=CC1OCC)C1=NNC(SC1CC)=O | C14H18N2O3S
reactant | 1-chloro-3-pyrrolidinopropane | ClCCCN1CCCC1 | C7H14ClN
product | 3-pyrrolidinopropyl-5-(3,4-dimethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one | N1(CCCC1)CCCN1C(SC(C(=N1)C1=CC(=C(C=C1)OC)OC)CC)=O | C20H29N3O3S
